US08748596B2
(4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(tetrahydro-pyran-4-yloxy)-pyridin-3-yl]-methanone
To a solution of (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone (32.7 g, 111.3 mmol) in toluene (470 mL) was added tetrahydro-pyran-4-ol (13.6 g, 133.6 mmol), 18-crown-6 (1.47 g, 5.565 mmol), and then KOH (pulverized solid, 20.6 g, 367.3 mmol). The resulting heterogeneous mixture was warmed to 110° C. and stirred for 3 h. After cooling to room temperature, water (470 mL) was added and the resulting layers were thoroughly mixed and then separated. The organic extract was dried over magnesium sulfate, filtered, and concentrated to yield the title compound as a yellow oil.

reactant | (6-chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | 111.3 mmol, 32.7 g | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1 | C15H20ClN3O
reactant | tetrahydro-pyran-4-ol | 133.6 mmol, 13.6 g | O1CCC(CC1)O | C5H10O2
reactant | 18-crown-6 | 5.565 mmol, 1.47 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | KOH | 367.3 mmol, 20.6 g | [OH-].[K+]
solvent | toluene | 470 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 470 mL | O | H2O
product | (4-Cyclobutyl-[1,4]diazepan-1-yl)-[6-(tetrahydro-pyran-4-yloxy)-pyridin-3-yl]-methanone | C1(CCC1)N1CCN(CCC1)C(=O)C=1C=NC(=CC1)OC1CCOCC1 | C20H29N3O3
